US04585876
The 4-chlorophthalic acid N-benzylimide is prepared by refluxing 4-chlorophthalic anhydride (13 g; 71.2 mmol) with 7.63 g (71.2 mmol) of benzylamine in xylene, the water being separated off. After evaporation of the mixture and recrystallisation of the residue from toluene/cyclohexane, 18.01 g (93% of theory) of 4-chlorophthalic acid N-benzylimide are obtained; melting point: 117°-119° C.

reactant | 4-chlorophthalic anhydride | 71.2 mmol, 13 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | benzylamine | 71.2 mmol, 7.63 g | C(C1=CC=CC=C1)N | C7H9N
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-chlorophthalic acid N-benzylimide | C(C1=CC=CC=C1)N=C(C=1C(C(=O)O)=CC(=CC1)Cl)O | C15H12ClNO3
